US04760069
6-Methyloximino-17-allyl-4,5α-epoxy-3,14-dihydroxymorphinan
A solution of naloxone hydrochloride (1.09 g, 3 mmol) and O-methylhydroxylamine hydrochloride (0.33 g, 3.9 mmol) in 15 mL MeOH was stirred overnight. After the addition of 3.2 mL of 10% aqueous NaOH, the mixture was refluxed for 5 h. It was cooled, diluted with approx. 100 mL of water, and extracted with 150 mL CHCl3 (3×50 mL). The combined extracts were dried (MgSO4) and evaporated. The residue obtained was recrystallized from hexane-petroleum ether. Yield 0.8 g, (75%) mp 128-129° C. IR (KBr): No C=O absorption at 1717 cm-1 ; H NMR (CDCl3): δ4.95 (s, C5H), 3.82 (s, OCH3). Rf: silica gel 60 in EtOAc-EtOH-NH4OH (100:1:1) 0.50. Anal. Calcd for C20H24N2O4 : C, 67.40; H, 6.79; N, 7.86. Found: C, 67.27; H, 6.84; N, 7.82.

reactant | naloxone hydrochloride | 3 mmol, 1.09 g | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O.Cl
reactant | O-methylhydroxylamine hydrochloride | 3.9 mmol, 0.33 g | Cl.CON
reactant | NaOH | 3.2 mL | [OH-].[Na+]
reactant | MeOH | 15 mL | CO | CH4O
solvent | water | approx. 100 mL | O | H2O
product | 6-Methyloximino-17-allyl-4,5α-epoxy-3,14-dihydroxymorphinan | CC1[C@H]2[C@]34C=5C(=C(C=CC5C[C@H]([C@@]3(CC1=NO)O)N(CC4)CC=C)O)O2 | C20H24N2O4
